US07855194B2
Step 4: Methanesulfonic acid 2-(piperidin-4-ylamino)-pyrimidin-5-yl ester
To a solution of 4-(5-methanesulfonyloxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.85 g, 2.3 mmol, 1.0 equiv) in ethanol (15 mL) was added 4 M HCl in dioxane (2.85 mL, 11.4 mmol, 5.0 equiv) and the mixture was warmed up to 50° C. After 16 h, the reaction mixture was cooled down to rt, then poured into ice water and the pH was adjusted to 9-10 by addition of a sat. solution of potassium carbonate. Then, this solution was extracted three times with dichloromethane/isopropanol (4:1). The combined organic layers were concentrated by evaporation under reduced pressure to yield 0.62 g (99%) of the title compound as a colorless solid. MS (ISP): 273.0 [M+H]+.

reactant | 4-(5-methanesulfonyloxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.3 mmol, 0.85 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)OS(=O)(=O)C | C15H24N4O5S
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 11.4 mmol, 2.85 mL, 5.0 equiv | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | Methanesulfonic acid 2-(piperidin-4-ylamino)-pyrimidin-5-yl ester | 0.62 g, 99% | N1CCC(CC1)NC1=NC=C(C=N1)OS(=O)(=O)C | C10H16N4O3S
